US05648372
1-(2,4-Difluorophenyl)-1-(6-thiocarbamoylbenzothiazol-2-yl)-2-(1H-1,2,4-triazol-yl)ethanol is reacted with sodium hydrogencarbonate and bromoacetone to obtain 1-(2,4-difluorophenyl)-1-(6-(3-methylthiazol-1-yl)-benzothiazol-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol.

reactant | 1-(2,4-Difluorophenyl)-1-(6-thiocarbamoylbenzothiazol-2-yl)-2-(1H-1,2,4-triazol-yl)ethanol | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(O)C=1SC2=C(N1)C=CC(=C2)C(N)=S | C18H13F2N5OS2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | bromoacetone | BrCC(C)=O | C3H5BrO
product | 1-(2,4-difluorophenyl)-1-(6-(3-methylthiazol-1-yl)-benzothiazol-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(O)C=1SC2=C(N1)C=CC(=C2)S2CN(C=C2)C | C21H19F2N5OS2
